US07524856B2
N-{2-[(2R)-Oxiran-2-ylmethoxy]phenyl}urea
To a mixture of (2S)-oxiran-2-ylmethanol (296 mg, 4.0 mmol), N-(2-hydroxyphenyl)urea (609 mg, 4.0 mmol) and triphenylphosphine (1.05 g, 4.0 mmol) in THF (10 mL) was dropwise added DEAD (697 mg, 4.0 mmol) in THF (3 mL) at room temperature. After addition was completed the reaction mixture was stirred at room temperature over night. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography (0-80% ethyl acetate in petroleum spirit) to give sub-title compound (336 mg).

reactant | (2S)-oxiran-2-ylmethanol | 4.0 mmol, 296 mg | O1[C@H](C1)CO | C3H6O2
reactant | N-(2-hydroxyphenyl)urea | 4.0 mmol, 609 mg | OC1=C(C=CC=C1)NC(=O)N | C7H8N2O2
reactant | triphenylphosphine | 4.0 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 4.0 mmol, 697 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-{2-[(2R)-Oxiran-2-ylmethoxy]phenyl}urea | 336 mg | O1[C@H](C1)COC1=C(C=CC=C1)NC(=O)N | C10H12N2O3
